US07557103B2
A. 7-isopropyl-2-methyl-1H-indole
To a solution of (2-isopropyl-phenyl)-hydrazine 7.60 g, 0.0506 mol) (Asselin et al., J. Med. Chem. 1976, 19, 787-792) and acetone (100 mL) is added 1M HCl in EtOH (2 drops). The solution is heated at a reflux overnight. The solution is concentrated, dissolved in toluene (100 mL) and concentrated. The residue is dissolved in o-xylene (100 mL) and ZnCl2 (8.3 g) is added. The solution is heated at 140° C. for 2 hours, cooled to ambient temperature, diluted with EtOAc (200 mL), washed with sat. NH4Cl, dried over Na2SO4, filtered and concentrated. The residue is purified by ISCO (5%-15% EtOAc gradient to furnish the title compound (1.76 g, 10.16 mmol, 20%). 1H NMR (CDCl3), δ 1.43 (d, J=7.0 Hz, 6H), 2.50 (s, 3H), 3.17-3.29 (m, 1H), 6.24-6.27 (m, 1H), 7.02 (d, J=7.1 Hz, 1H), 7.07 (dd, J=7.5, 7.1 Hz, 1H), 7.39 (d, J=7.5 Hz, 1H), 7.85 (bs, 1H) ppm. LC/MS (m/z): calcd. for C12H15N (M+H)+: 174.1. found: 174.1.

reactant | (2-isopropyl-phenyl)-hydrazine | 0.0506 mol, 7.60 g | C(C)(C)C1=C(C=CC=C1)NN | C9H14N2
reactant | HCl | 1M | Cl | ClH
reactant | acetone | 100 mL | CC(=O)C | C3H6O
catalyst | EtOH | 2 drops | CCO | C2H6O
product | 7-isopropyl-2-methyl-1H-indole | 10.16 mmol, 1.76 g, 20% | C(C)(C)C=1C=CC=C2C=C(NC12)C | C12H15N
